US07687490B2
1-(t-Butoxycarbonyloxy)ethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate (diastereomer mixture)
In the same manner as in Example 81, 89 mg of the title compound was prepared from 160 mg of sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate and 162 mg of 1-(t-butoxycarbonyloxy)ethyl iodide.

reactant | sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 160 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+]
reactant | 1-(t-butoxycarbonyloxy)ethyl iodide | 162 mg | C(C)(C)(C)OC(=O)OC(C)I | C7H13IO3
product | 1-(t-Butoxycarbonyloxy)ethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 89 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OC(C)OC(=O)OC(C)(C)C)C1=O | C23H30N2O8S2
